US04259340
5-Acetyl-2,4-dimethoxybenzoic acid (Ber. 41, 1607, 1908) (21.1 g, 0.094 mole) was stirred in dioxane (200 ml.) at room temperature and bromine (5 ml., ca 0.1 mole) was added dropwise. The bromine colour gradually disappeared over 30 minutes and the mixture was then gently warmed in a steambath for 30 minutes, cooled and the dioxane removed in vacuo. The solid product was treated with boiling ethyl acetate, filtered hot and the filtrate evaporated to give 5-bromoacetyl-2,4-dimethoxybenzoic acid, m.p. 236° C.

reactant | 5-Acetyl-2,4-dimethoxybenzoic acid | 0.094 mole, 21.1 g | C(C)(=O)C=1C(=CC(=C(C(=O)O)C1)OC)OC | C11H12O5
reactant | bromine | ca 0.1 mole, 5 ml | BrBr | Br2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-bromoacetyl-2,4-dimethoxybenzoic acid | BrCC(=O)C=1C(=CC(=C(C(=O)O)C1)OC)OC | C11H11BrO5
